US05506234
5-(3-Pyridyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester
532 mg of 5-trifluoromethanesulfonyloxy-4-methoxymethyl-9- tert.butoxycarbonyl-β-carboline-3-carboxylic acid isopropyl ester is mixed in 20 ml of toluene in succession with 164 mg of diethyl-3-pyridylborane, 36 mg of tetrakis (triphenylphosphine) palladium (O), 84 mg of lithium chloride, 4 ml of ethanol as well as 2 ml of a 2-m aqueous sodium carbonate solution and refluxed for 3.5 hours. Then borane, palladium catalyst, ethanol, lithium chloride as well as soda solution are added again and heated for 3.5 hours to 120° C. solution temperature. Then it is mixed with 30 ml of water and extracted three times with 30 ml of ethyl acetate. The organic phase is dried, filtered and concentrated by evaporation. The residue is stirred with 13 ml of trifluoroacetate acid for 1 hour at room temperature. After concentration by evaporation it is taken up in 50 ml of dilute sodium carbonate solution and extracted three times with 30 ml of ethyl acetate. The organic phase is washed with water, dried, filtered and concentrated by evaporation. The residue is chromatographed successively twice on silica gel, first with eluant methylene chloride:ethanol=10:1 and then the corresponding fractions on a second column with toluene: glacial acetic acid: water=10:1:1. The corresponding combined fractions are concentrated by evaporation and the residue is refluxed for 1.5 hours with 10 ml of isopropanol and 45 mg of titanium (IV) isopropylate. After concentration by evaporation it is taken up in 15 ml of 1-N hydrochloric acid and extracted three times with 30 ml of ethyl acetate each. The combined organic phase is discarded. The aqueous phase is made alkaline with ammonia and extracted three times with ethyl acetate. The organic phase is dried, filtered and concentrated by evaporation and 45 mg (12% of theory) of 5-(3-pyridyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester with a melting point of 187°-188° C. is obtained.

reactant | 5-trifluoromethanesulfonyloxy-4-methoxymethyl-9- tert.butoxycarbonyl-β-carboline-3-carboxylic acid isopropyl ester | 532 mg | C(C)(C)OC(=O)C=1N=CC=2N(C3=CC=CC(=C3C2C1COC)OS(=O)(=O)C(F)(F)F)C(=O)OC(C)(C)C | C23H25F3N2O8S
reactant | diethyl-3-pyridylborane | 164 mg | C(C)B(C=1C=NC=CC1)CC | C9H14BN
reactant | lithium chloride | 84 mg | [Cl-].[Li+]
reactant | sodium carbonate | 2 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | borane | B | BH3
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | palladium | [Pd] | Pd
catalyst | tetrakis (triphenylphosphine)-palladium | 36 mg | [Pd].C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1
solvent | water | 30 ml | O | H2O
solvent | ethanol | C(C)O | C2H6O
solvent | ethanol | 4 ml | C(C)O | C2H6O
product | 5-(3-Pyridyl)-4-methoxymethyl-β-carboline-3-carboxylic acid isopropyl ester | C(C)(C)OC(=O)C=1N=CC=2NC3=CC=CC(=C3C2C1COC)C=1C=NC=CC1 | C22H21N3O3
